2148-01-15 05:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EEG - At [**2148-1-14**] 10:00 AM
 MAGNETIC RESONANCE IMAGING - At [**2148-1-14**] 01:45 PM
   -- long EtoH history (last drink months ago).
   -- discharged home with services after prior admission following c4-c5
   fusion. Prior multiple suicide attempts with overdoses.  Sister
   believes that he overdosed on coumadin. Found down in room, couldn't
   talk, shaking, called EMS. Will need psych consult when stable
   - Tox consult: monitor INR, supportive care for lamictal overdose.
   - MRI/CAT head: old stable Rt frontal hygroma.
   MRI/CAT C-spine: stable post op c5-7 ant. fixation, no evidence
   cord injury (due to unwitnessed fall) hematoma, of FX.
   - Neuro:Toxic metabolic encephalopathy due to multi med
   OD/withdrawal as documented above.  Exhibiting clonus not
   seizures.  Problem will be pain control and psych Rx once acute
   toxic metabolic encephalopathy is resolved.  Because unknown
   Lamicatal OD watch K+ and pancreatic function, watch for acute
   seizures for first 48 hrs, supportive cae, as vital sign
   instability can occur.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2148-1-14**] 07:00 PM
   Vancomycin - [**2148-1-14**] 08:00 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 12 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2148-1-15**] 02:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-1-15**] 05:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**49**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.2
   HR: 66 (62 - 89) bpm
   BP: 117/72(83) {101/64(75) - 152/85(111)} mmHg
   RR: 14 (11 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,403 mL
                                                                    191 mL
   PO:
             TF:
   IVF:
                                                                  2,403 mL
                                                                    191 mL
   Blood products:
   Total out:
                                                                    775 mL
                                                                     60 mL
   Urine:
                                                                    775 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,628 mL
                                                                    131 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 47
   PIP: 23 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 8.3 L/min
   Physical Examination
   GEN:Intubated and sedated
   SKIN:Erythema over left forearm, soft
   HEENT:Pupils equal and reactive, ET tube in place, NG Tube in place
   CHEST:Lungs are clear without wheeze, rales, or rhonchi.
   CARDIAC: Regular rhythm; no murmurs, rubs, or gallops.
   ABDOMEN: No apparent scars. Non-distended, and soft without tenderness
   EXTREMITIES:Swelling/ecchymosis over right foot
   NEUROLOGIC: Sedated
   Exam off sedation: Pt responds to commands, opens eyes, squeezes hands,
   and has jerky motion of both lower extremities but responding
   throughout  this jerking motion
   Labs / Radiology
   218 K/uL
   10.8 g/dL
   76 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.7 mEq/L
   9 mg/dL
   107 mEq/L
   141 mEq/L
   32.6 %
   6.9 K/uL
        [image002.jpg]
                             [**2148-1-14**]  02:35 AM
                             [**2148-1-14**]  04:59 AM
                             [**2148-1-14**]  09:21 AM
                             [**2148-1-14**]  05:54 PM
                             [**2148-1-15**]  04:31 AM
   WBC
   10.5
   7.1
   6.9
   Hct
   34.7
   34.3
   32.6
   Plt
   [**Telephone/Fax (3) 11554**]
   Cr
   0.7
   0.7
   0.7
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   28
   Glucose
   100
   82
   76
   Other labs: PT / PTT / INR:13.6/28.1/1.2, CK / CKMB /
   Troponin-T:277/2/<0.01, ALT / AST:179/89, Alk Phos / T Bili:101/1.3,
   Differential-Neuts:66.5 %, Lymph:24.5 %, Mono:5.3 %, Eos:3.3 %,
   Albumin:3.4 g/dL, LDH:161 IU/L, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 PNEUMONIA, ASPIRATION
   54 yo M found down at home, intubated in ED for unresponsiveness and
   concern for coumadin and lamictal OD per family though history remains
   unclear.
   .
   #  Unresponsiveness /Fall: Patient has history of 4 overdose attempts
   in the past and was found by family to be unresponsive next to empty
   bottles of Lamictal and Coumadin; making O/D possible. CT head without
   new bleed.  Pt is responding to commands with lightened sedation with
   clonus and hyperreflexia (not new but may be more pronounced than
   previously described on OMR notes) neurology consulted and did not feel
   this was seizure. Pt has not had EtOH since prior admission 1 month
   ago. MRI no acute changes from prior
   - wean sedation and place on pressure support for attempted extubation
   today
   - f/u neuro recs
   - Monitor on tele
   - f/u EEG in AM
   - Banana bag, MVI, thiamine, folate
   - Follow daily LFTs
   - f/u Lamictal level
   - Add on Ca/Mg/Phos
   - Toxicology following; recommending supportive care for now
   - Plan to consult psych when stable
   .
   # SDH: Patient has  chronic right frontal hygroma and was evaluate by
   neurosurgery who felt that this was resolving and no intervention
   needed currently (and no contraindication to coumadin)
   - holding coumadin given O/D for now
   .
   #  Leukocytosis:  Mild at 12.6 on admission., improved and normalized.
   CT chest with evidence of aspiration pneumonia  Got vanco zosyn in ED.
   Afebrile.  Sputum growing GPC
   - cover broadly with Vanc/Zosyn given recent hospitalization and likely
   health-care associated PNA
   - trend white count and fever curve
   - Send sputum cultures
   # Infiltrated [**Name (NI) 4268**] Pt noted to have infiltrated propofol with tracking
   up right forearm
   -Plastics consulted, no additional recs
   .
   #  Depression:  Concern for suicide attempt, has had them in the past.
   On SSRI and lamictal.
   - hold meds for now given concern for OD
   - psych consult after extubation to determine need for section 12/inpt
   psych admission
   - SW c/s
   .
   #  DVT's: Diagnosed at recent admission, discharged on coumdain,
   concern for overdose, but unclear history. Got  10mg iv vitamin K at
   OSH.
   - hold coumadin for now, no heparin given concern for overdose
   .
   .
   # FEN: no IVFs / replete lytes prn / NPO
   # PPX: H2 blocker, no anticoagulation given ?OD, pneumoboots
   # ACCESS: PIV, CVL
   # CODE:  Presumed full
   # CONTACT: Father H.V> Aposhion [**Telephone/Fax (1) 11529**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2148-1-13**] 11:33 PM
   16 Gauge - [**2148-1-13**] 11:34 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Pt seen and evaluated on rounds with residents
   Please see above note for details of history and plan
   In adddition:
   Did well overnight with no critical events.
   Respiratory mechanics are excellent and should be able to be extubated
   this AM.
   MRI demonstrated that C-spine was stable and no new intracranial
   collection
   PE
   Alert on vent
   Lungs Clear
   Cor
 no murmurs
   Abdomen
 soft/bs active/non-tender
   Extrem
 no edema
   Imp:
   No evidence of DT
 last drink months ago
   ? OD as INR has not bumped
   Extubate today and question about nature of ingestion.
   Observe for 24 h in MICU after extubation
   F/U Lamictal levels
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2148-1-15**] 11:13 ------

2148-01-16 10:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2148-1-15**] 12:26 PM
   -- Pt extubated, exhibiting generalized myoclonic jerks
   -- Unable to provide any further history of intake
   -- Toxicology: likely lamictal effect, may try low dose benzo
   -- Tried 5mg IV Valium with minimal result, started CIWA scale with
   10mg IV and after 3 doses pts HR decreased from 130's / BP 180's to HR
   80's and SBP in 130's.
   -- Currently on q1H CIWA Scale.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2148-1-14**] 07:00 PM
   Piperacillin - [**2148-1-16**] 04:28 AM
   Vancomycin - [**2148-1-16**] 08:12 AM
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2148-1-15**] 11:05 PM
   Famotidine (Pepcid) - [**2148-1-16**] 02:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-1-16**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**49**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.6
C (97.9
   HR: 94 (83 - 135) bpm
   BP: 140/90(100) {115/71(81) - 170/104(117)} mmHg
   RR: 14 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,810 mL
                                                                    443 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                  1,300 mL
                                                                    383 mL
   Blood products:
   Total out:
                                                                  1,429 mL
                                                                    730 mL
   Urine:
                                                                  1,429 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    381 mL
                                                                   -287 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   209 K/uL
   10.6 g/dL
   93 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.1 mEq/L
   5 mg/dL
   101 mEq/L
   140 mEq/L
   31.7 %
   7.2 K/uL
        [image002.jpg]
                             [**2148-1-14**]  02:35 AM
                             [**2148-1-14**]  04:59 AM
                             [**2148-1-14**]  09:21 AM
                             [**2148-1-14**]  05:54 PM
                             [**2148-1-15**]  04:31 AM
                             [**2148-1-16**]  04:24 AM
   WBC
   10.5
   7.1
   6.9
   7.2
   Hct
   34.7
   34.3
   32.6
   31.7
   Plt
   [**Telephone/Fax (3) 11586**]09
   Cr
   0.7
   0.7
   0.7
   0.6
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   28
   Glucose
   100
   82
   76
   93
   Other labs: PT / PTT / INR:13.5/28.7/1.2, CK / CKMB /
   Troponin-T:277/2/<0.01, ALT / AST:157/82, Alk Phos / T Bili:102/1.4,
   Differential-Neuts:66.5 %, Lymph:24.5 %, Mono:5.3 %, Eos:3.3 %,
   Albumin:3.4 g/dL, LDH:198 IU/L, Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
 SUICIDALITY / SUICIDE ATTEMPT
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 PNEUMONIA, ASPIRATION
   54 yo M found down at home, intubated in ED for unresponsiveness and
   concern for coumadin and lamictal OD per family though history remains
   unclear.
   .
   #  Unresponsiveness /Fall: Patient has history of 4 overdose attempts
   in the past and was found by family to be unresponsive next to empty
   bottles of Lamictal and Coumadin; making O/D possible. CT head without
   new bleed.  Pt is responding to commands with lightened sedation with
   clonus and hyperreflexia (not new but may be more pronounced than
   previously described on OMR notes) neurology consulted and did not feel
   this was seizure. Pt has not had EtOH since prior admission 1 month
   ago. MRI no acute changes from prior
   - wean sedation and place on pressure support for attempted extubation
   today
   - f/u neuro recs
   - Monitor on tele
   - f/u EEG in AM
   - Banana bag, MVI, thiamine, folate
   - Follow daily LFTs
   - f/u Lamictal level
   - Add on Ca/Mg/Phos
   - Toxicology following; recommending supportive care for now
   - Plan to consult psych when stable
   .
   # SDH: Patient has  chronic right frontal hygroma and was evaluate by
   neurosurgery who felt that this was resolving and no intervention
   needed currently (and no contraindication to coumadin)
   - holding coumadin given O/D for now
   .
   #  Leukocytosis:  Mild at 12.6 on admission., improved and normalized.
   CT chest with evidence of aspiration pneumonia  Got vanco zosyn in ED.
   Afebrile.  Sputum growing GPC
   - cover broadly with Vanc/Zosyn given recent hospitalization and likely
   health-care associated PNA
   - trend white count and fever curve
   - Send sputum cultures
   # Infiltrated [**Name (NI) 4268**] Pt noted to have infiltrated propofol with tracking
   up right forearm
   -Plastics consulted, no additional recs
   .
   #  Depression:  Concern for suicide attempt, has had them in the past.
   On SSRI and lamictal.
   - hold meds for now given concern for OD
   - psych consult after extubation to determine need for section 12/inpt
   psych admission
   - SW c/s
   .
   #  DVT's: Diagnosed at recent admission, discharged on coumdain,
   concern for overdose, but unclear history. Got  10mg iv vitamin K at
   OSH.
   - hold coumadin for now, no heparin given concern for overdose
   .
   .
   # FEN: no IVFs / replete lytes prn / NPO
   # PPX: H2 blocker, no anticoagulation given ?OD, pneumoboots
   # ACCESS: PIV, CVL
   # CODE:  Presumed full
   # CONTACT: Father H.V> Aposhion [**Telephone/Fax (1) 11529**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2148-1-13**] 11:33 PM
   16 Gauge - [**2148-1-13**] 11:34 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2148-01-16 12:11:00 Physician Attending Progress Note
Chief Complaint: Overdose, altered mental status.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2148-1-15**] 12:26 PM
   Myoclonic jerks seen by neurology no concern for seizures. Placed on
   CIWA scale and did well on this. INR remains subtherapeutic. Received
   40mg of valium overnight, and 10mg po this am.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2148-1-14**] 07:00 PM
   Piperacillin - [**2148-1-16**] 04:28 AM
   Vancomycin - [**2148-1-16**] 08:12 AM
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2148-1-15**] 11:05 PM
   Famotidine (Pepcid) - [**2148-1-16**] 02:07 AM
   Other medications:
   famotidine, vanco 1g iv q12, folic acid, thiamine 100 iv daily, MVI,
   zosyn 4.45g iv q8, benadryl iv prior to vanco dosing, valium q2 prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-1-16**] 12:11 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**49**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.6
C (97.9
   HR: 95 (83 - 135) bpm
   BP: 135/92(104) {129/72(84) - 170/104(117)} mmHg
   RR: 20 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,810 mL
                                                                    529 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                  1,300 mL
                                                                    469 mL
   Blood products:
   Total out:
                                                                  1,429 mL
                                                                    730 mL
   Urine:
                                                                  1,429 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    381 mL
                                                                   -201 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   FiO2: 40%
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : lung anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   10.6 g/dL
   209 K/uL
   93 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.1 mEq/L
   5 mg/dL
   101 mEq/L
   140 mEq/L
   31.7 %
   7.2 K/uL
        [image002.jpg]
                             [**2148-1-14**]  02:35 AM
                             [**2148-1-14**]  04:59 AM
                             [**2148-1-14**]  09:21 AM
                             [**2148-1-14**]  05:54 PM
                             [**2148-1-15**]  04:31 AM
                             [**2148-1-16**]  04:24 AM
   WBC
   10.5
   7.1
   6.9
   7.2
   Hct
   34.7
   34.3
   32.6
   31.7
   Plt
   [**Telephone/Fax (3) 11586**]09
   Cr
   0.7
   0.7
   0.7
   0.6
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   28
   Glucose
   100
   82
   76
   93
   Other labs: PT / PTT / INR:13.5/28.7/1.2, CK / CKMB /
   Troponin-T:277/2/<0.01, ALT / AST:157/82, Alk Phos / T Bili:102/1.4,
   Differential-Neuts:66.5 %, Lymph:24.5 %, Mono:5.3 %, Eos:3.3 %,
   Albumin:3.4 g/dL, LDH:198 IU/L, Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:4.1
   mg/dL
   Imaging: CXR LLL pneumonia
   Microbiology: none
   MRSA screen positive
   Assessment and Plan
 SUICIDALITY / SUICIDE ATTEMPT: pt admits to attempting to get himself
   into the coma when he took the lamictal and coumadin. Will consult
   psychiatry will continue suicide precautions.
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES): he is
   responding well to benzodiazepines prn per CIWA will continue
 PNEUMONIA, ASPIRATION: Will check PA and lateral CXR today, and d/c
   vancomycin as spuutm culture negative for MRSA.
hx DVT: will discuss pharmacodynamics of couamdin with pharmacy, will
   start s.c heparin.
Neck pain, ? neck injury: d/c C-collar and cleared c-spine clinically
   no point tenderness.
   ICU Care
   Nutrition:
   Comments: start diet.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2148-1-13**] 11:33 PM
   16 Gauge - [**2148-1-13**] 11:34 PM
   Comments: d/c central line tomorrow.
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes
   ------ Protected Section ------
   I saw and examined the pt, and was physically present with the ICU team
   for the key portions of services provided. I agree with Dr. [**First Name (STitle) 9018**]
   note, including assessment and plan. 54 yo male with prior history of
   suicde attempts, admitted with reports of lamictal and coumadin OD-
   initially with acute resp failure; now extubated. INR
s have remained
   normal throughout . Has had intermittent myoclonic jerks since
   extubation- evaluated by neurology and thought likely due to lamictal,
   not seizure activity. Requiring Bdz per CIWA.
   Plan psych eval, sitter today
   Appears appropriate for floor transfer.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2148-1-16**] 16:07 ------